US05306728
Production of (E,E)-N-ethyl-N-(6,6-dimethyl-2-hepten-4-ynyl)-3-[4-(3-thienyl)-3-butenyloxy]benzylamine
Compounds of Examples 63 and 64 were obtained by performing the same reaction as in Example 62 except that 2-(3-thienymethoxy)ethanol or (E)-N-methyl-N-(6,6-dimethyl-2-hepten-4-ynyl)-3-hydroxybenzylamine was used instead of the starting compound, (E)-4-(3-thienyl)-3-buten-1-ol or (E)-N-ethyl-N-(6,6-dimethyl-2-hepten-4-ynyl)-3-hydroxybenzylamine, which was used in the above-mentioned reaction.

reactant | (E)-N-methyl-N-(6,6-dimethyl-2-hepten-4-ynyl)-3-hydroxybenzylamine | CN(C\C=C\C#CC(C)(C)C)CC1=CC(=CC=C1)O | C17H23NO
reactant | (E)-4-(3-thienyl)-3-buten-1-ol | S1C=C(C=C1)/C=C/CCO | C8H10OS
reactant | (E)-N-ethyl-N-(6,6-dimethyl-2-hepten-4-ynyl)-3-hydroxybenzylamine | C(C)N(C\C=C\C#CC(C)(C)C)CC1=CC(=CC=C1)O | C18H25NO
product | (E,E)-N-ethyl-N-(6,6-dimethyl-2-hepten-4-ynyl)-3-[4-(3-thienyl)-3-butenyloxy]benzylamine | C(C)N(C\C=C\C#CC(C)(C)C)CC1=CC(=CC=C1)OCC\C=C\C1=CSC=C1 | C26H33NOS
